US07223776B2
59.b) tert-Butyl 5-aminomethyl-3,6-dihydro-2H-pyridine-1-carbamate
Triphenylphosphine on polystyrene (5.24 g) was added to a solution of tert-butyl 5-azidomethyl-3,6-dihydro-2H-pyridine-1-carbamate (1 g, 4.2 mmol) in THF (25 ml) and water (0.250 ml). The reaction mixture was shaken at room temperature for 36 hours. The polymer was filtered off and then washed with THF. The filtrate was concentrated.

reactant | Triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl 5-azidomethyl-3,6-dihydro-2H-pyridine-1-carbamate | 4.2 mmol, 1 g | N(=[N+]=[N-])CC1=CCCN(C1)NC(=O)OC(C)(C)C | C11H19N5O2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | 0.250 ml | O | H2O
product | tert-Butyl 5-aminomethyl-3,6-dihydro-2H-pyridine-1-carbamate | NCC1=CCCN(C1)NC(=O)OC(C)(C)C | C11H21N3O2
